US09303023B2
(R)—N-(1-(2-Aminopropyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
The title compound was synthesized according to procedure described for N-(1-(2-aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide starting with (R)-2-((tert-butoxycarbonyl)amino)propyl 4-methylbenzenesulfonate. Synthesis of (R)-2-((tert-butoxycarbonyl)amino)propyl 4-methylbenzenesulfonate was performed according to Bioorg. Med. Chem. 16 (2008) 1966-1982. LC-MS conditions B: tR=0.55 min, [M+H]+=326.11.

reactant | N-(1-(2-aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H17N5O2
reactant | (R)-2-((tert-butoxycarbonyl)amino)propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C)NC(=O)OC(C)(C)C | C15H23NO5S
product | (R)—N-(1-(2-Aminopropyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | N[C@@H](CN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)C | C17H19N5O2
